data/oMe_Silver.jsonl
{"reaction_id": "NR-319_1-c1ccccc1_2-C(C)C_3-C2CCCCC2_4-C2CC2","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(c1ccccc1)C1(C(C)C)OC1(C2CCCCC2)C2CC2","NN"],"products_smiles": ["[CH](=C(C(C)C)C(O)(C2CCCCC2)C2CC2)c1ccccc1"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1ccccc1)C1(C(C)C)OC1(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(c1ccccc1)=C(C(C)C)C(O)(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(c1ccccc1)=C(C(C)C)C(O)(C2CCCCC2)C2CC2","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C(C)C)C(O)(C2CCCCC2)C2CC2)c1ccccc1","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C(C)C)C(O)(C2CCCCC2)C2CC2)c1ccccc1","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
{"reaction_id": "NR-106_1-C1CCCCC1_2-C1CC1_3-C_4-c1cnccc1","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(C1CCCCC1)(C1CC1)[N+](=O)[O-]","C(C)(c1cnccc1)=O","[OH-]"],"products_smiles": ["C(C)(c1cnccc1)(O)C(C1CCCCC1)(C1CC1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(C1CC1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(c1cnccc1)([O-])C(C1CCCCC1)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1cnccc1)(O)C(C1CCCCC1)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
